US06465497B2
Step A: Preparation of 2-chloro-4-cyclopentylphenol
A solution of 4-cyclopentylphenol (4 g) and diisobutylamine (0.35 mL) in toluene (75 mL) was heated to 70° C. with stirring. Sulfuryl chloride (2.0 mL) was introduced via syringe and the reaction stirred for 2 h at 70° C., then cooled to room temperature. The reaction mixture was concentrated in vacuo and the resulting oil subjected to chromatography on silica gel using hexane/ethyl acetate eluent to afford the title compound (3.5 g). 1H NMR (400 MHz, CDCl3): δ7.19 (d, 1H, J=2.0 Hz); 7.06 (dd, 1H, J=2.2 Hz, 6.2 Hz); 6.94 (d, 1H, J=8.6 Hz); 5.37 (s, 1H); 2.92 (quint, 1H, J=7.0 Hz); 2.03 (m, 2H); 1.80 (m, 2H); 1.67 (m, 2H); 1.53 (m, 2H). MS: m/e=197(M+)

reactant | 4-cyclopentylphenol | 4 g | C1(CCCC1)C1=CC=C(C=C1)O | C11H14O
reactant | diisobutylamine | 0.35 mL | C(C(C)C)NCC(C)C | C8H19N
reactant | Sulfuryl chloride | 2.0 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-cyclopentylphenol | 3.5 g | ClC1=C(C=CC(=C1)C1CCCC1)O | C11H13ClO
